US05869501
7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile obtained in Reference Example 2 (150 mg) was dissolved in 1 ml of pyridine, 211 mg of ethanesulfonyl chloride was added to the solution, and the mixture was stirred at 0° C. for 20 minutes and then at room temperature for 3 hours. Ethyl acetate was added to the reaction solution. The mixture was washed with 10% citric acid aqueous solution and brine in that order, dried over anhydrous sodium sulfate, and then evaporated. The resulting residue was purified by silica gel column chromatography using hexane:ethyl acetate (75:25) as the eluent to give 176 mg of N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]ethanesulfonamide.

reactant | 7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
reactant | ethanesulfonyl chloride | 211 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]ethanesulfonamide | 176 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)CC)CC1=CC2=CC(=CC=C2C=C1)C#N | C30H35N3O5S
